US07323466B2
(R)-2-{3-Chloro-4-[5-(4-methoxy-phenyl)-[1,2,4]oxadiazol-3-ylmethoxy]-benzyl}-morpholine
The solution of 0.30 g (0.6 mmol) (R)-2-{3-chloro-4-[5-(4-methoxy-phenyl)-[1,2,4]oxadiazol-3-ylmethoxy]-benzyl}-morpholine-4-carboxylic acid tert-butyl ester in 3 mL dichloromethane was cooled to 0° C. and treated with 1.5 mL (19.6 mmol) trifluoroacetic acid. The cooling bath was removed and the solution stirred at room temperature for 1 h. The volatile components were evaporated and the residue dissolved in dichloromethane and extracted with 1N aqueous sodium hydroxide solution. The organic layer was washed with brine, dried over magnesium sulfate, evaporated and dried under high vacuum to give 0.23 g (95%) of the product as colorless oil.

reactant | (R)-2-{3-chloro-4-[5-(4-methoxy-phenyl)-[1,2,4]oxadiazol-3-ylmethoxy]-benzyl}-morpholine-4-carboxylic acid tert-butyl ester | 0.6 mmol, 0.30 g | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)CC1=CC(=C(C=C1)OCC1=NOC(=N1)C1=CC=C(C=C1)OC)Cl | C26H30ClN3O6
reactant | trifluoroacetic acid | 19.6 mmol, 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (R)-2-{3-Chloro-4-[5-(4-methoxy-phenyl)-[1,2,4]oxadiazol-3-ylmethoxy]-benzyl}-morpholine | 0.23 g, 95% | ClC=1C=C(C[C@@H]2CNCCO2)C=CC1OCC1=NOC(=N1)C1=CC=C(C=C1)OC | C21H22ClN3O4
